2167-06-10 09:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   43 yo woman with some significant psychiatric history (prior history of
   drug overdose) and with multiple prescriptions for sedatives and
   anxiolytics who was found somnolent by boyfriend, brought to OSH [**Name (NI) **] and
   intubated for hypoxemic respiratory failure.
   24 Hour Events:
   Bronchoscopy overnight without airway obstruction but with thick yellow
   sputum aspirated. Total of 2.5L IVF given overnight for marginal UOP
   and hypotension- fluid responsive.
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2167-6-10**] 02:02 AM
   Levofloxacin - [**2167-6-10**] 04:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Vanco 1g q12, Heparin sc, Peridex, Pepcid, Propofol gtt, Levofloxacin,
   Zosyn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-6-10**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 80 (80 - 98) bpm
   BP: 87/59(65) {87/59(65) - 120/78(88)} mmHg
   RR: 14 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                      5 mL
                                                                  3,346 mL
   PO:
             TF:
   IVF:
                                                                      5 mL
                                                                  2,346 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,185 mL
   Urine:
   245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      5 mL
                                                                  2,161 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 360 (360 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.46/37/149/21/3
   Ve: 9.4 L/min
   PaO2 / FiO2: 248
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.9 g/dL
   214 K/uL
   122 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.6 mEq/L
   15 mg/dL
   109 mEq/L
   142 mEq/L
   31.7 %
   11.3 K/uL
        [image002.jpg]
                             [**2167-6-9**]  11:06 PM
                             [**2167-6-10**]  01:09 AM
                             [**2167-6-10**]  02:42 AM
                             [**2167-6-10**]  06:05 AM
   WBC
   11.3
   Hct
   31.7
   Plt
   214
   Cr
   0.7
   TCO2
   26
   27
   27
   Glucose
   122
   Other labs: PT / PTT / INR:14.3/28.6/1.2, Lactic Acid:1.1 mmol/L,
   Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: Tox screen here- opiates and methadone
   Imaging: OSH CT chest [**6-9**]- LLL collapse w/ lingular/ LUL infiltrate;
   pericardial effusion; patulous esophagus; stomach w/ sig residuals
   CXR [**6-10**]- increased aeration LLL but still w/ sig atelectasis vs
   infiltrate
   Microbiology: [**6-9**] Blood x2- pending
   [**6-10**] Sputum? - polymicrobial Gm stain
   [**6-10**] Urine legionella Ag- pending
   Assessment and Plan
   Hypoxemic respiratory failure: likely CAP vs HAP vs aspiration with
   mucous plugging
   -stable on vent; will wean FiO2 and PEEP
   -wean sedation and PSV trial
   -broad ABX coverage w/ vanco + pip-tazo and levofloxacin for now;
   narrow in 48 hrs based on cx data
   -f/u blood and bronch sample (clarify if "sputum" reported from this am
   is endotracheal aspirate or BAL)
   Possible sepsis: hypotensive w/ elevated lactate overnight, fluid
   responsive
   -hemodynamically stable this am; low threshold to place CVC and a-line
   if unstable
   -cont fluid resuscitation targeted to UOP and BP
   -ABX as above
   Pericardial effusion: noted on CT scan, no evidence of pulsus on exam
   -echo today
   Obtundation: polypharmacy noted on history obtained from boyfriend and
   history of overdose, also w/ hx of hypothyroidism and unclear
   compliance
   -TSH pending this am
   -will clarify psych regimen w/ primary psychiatrist
   -holding sedatives for now till clarified
   Remainder of plan per housestaff note.
   ICU Care
   Nutrition:
   Comments: tube feeds to be ordered
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2167-6-9**] 11:59 PM
   20 Gauge - [**2167-6-10**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2167-06-11 10:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory failure, LLL Pneumonia
   24 Hour Events:
   TTE yest with sm effusion. Tolerated PSV yest.
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2167-6-11**] 03:23 AM
   Levofloxacin - [**2167-6-11**] 04:25 AM
   Vancomycin - [**2167-6-11**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-6-11**] 04:26 AM
   Famotidine (Pepcid) - [**2167-6-11**] 08:00 AM
   Other medications:
   levoflox, seroquel, depakote, topamax, zosyn, vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-6-11**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 91 (86 - 100) bpm
   BP: 90/60(67) {86/52(60) - 104/67(74)} mmHg
   RR: 13 (10 - 15) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.1 kg (admission): 55 kg
   Height: 64 Inch
             Total In:
                                                                  4,879 mL
                                                                    982 mL
   PO:
             TF:
                                                                    229 mL
   IVF:
                                                                  3,290 mL
                                                                    902 mL
   Blood products:
   Total out:
                                                                  2,325 mL
                                                                  1,405 mL
   Urine:
                                                                  1,385 mL
                                                                  1,405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,554 mL
                                                                   -423 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 758 (564 - 758) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 16
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.47/29/122/18/-2
   Ve: 9.4 L/min
   PaO2 / FiO2: 305
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles : L ant,
   Diminished: L base)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   222 K/uL
   67 mg/dL
   0.7 mg/dL
   18 mEq/L
   3.7 mEq/L
   12 mg/dL
   110 mEq/L
   143 mEq/L
   30.6 %
   18.4 K/uL
        [image002.jpg]
                             [**2167-6-9**]  11:06 PM
                             [**2167-6-10**]  01:09 AM
                             [**2167-6-10**]  02:42 AM
                             [**2167-6-10**]  06:05 AM
                             [**2167-6-10**]  01:08 PM
                             [**2167-6-11**]  02:26 AM
                             [**2167-6-11**]  05:48 AM
   WBC
   11.3
   18.4
   Hct
   31.7
   30.6
   Plt
   214
   222
   Cr
   0.7
   0.7
   TCO2
   26
   27
   27
   26
   21
   Glucose
   122
   67
   Other labs: PT / PTT / INR:15.4/35.6/1.4, Lactic Acid:1.1 mmol/L,
   Albumin:3.2 g/dL, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: TSH- 56
   Imaging: [**6-11**] CXR- no change since yesterday
   Microbiology: admit Urine legionella Ag- neg
   [**6-10**] Sputum- pending
   [**6-10**] blood pending
   Assessment and Plan
   Hypoxemic respiratory failure: likely CAP vs HAP vs aspiration with
   mucous plugging
   -stable on PSV
   -still w/ equivocal cough and mental status somewhat precluding
   extubation --> will continue to hold sedation and assess for possible
   extubation later this morning/ tomorrow. Will do bronch prior to
   extubation to help with secretion clearance
   -broad ABX coverage w/ vanco + pip-tazo and levofloxacin for now;
   narrow in another 24 hrs based on cx data
   -f/u blood and bronch sample cx
   Possible sepsis: hypotensive w/ elevated lactate overnight, fluid
   responsive
   -hemodynamically stable with reasonable UOP
   -will have to follow clinically for elevated wbc today, no new signs of
   infxn. will add on diff and evaluate as per results
   -cont fluid resuscitation targeted to UOP and BP
   -ABX as above
   Pericardial effusion: noted on CT scan, no evidence of pulsus on exam
   -TTE without tamponade evidence
   Obtundation: polypharmacy noted on history obtained from boyfriend and
   history of overdose, also w/ profound hypothyroidism, poss myxedema?
   -IV levothyroxine today
   -resumed mood stabilizers yest; will hold Seroquel and other possible
   sedatives (Ambien and Klonopin)
   Remainder of plan per housestaff note.
   ICU Care
   Nutrition:
   Comments: tube feeds held
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2167-6-9**] 11:59 PM
   20 Gauge - [**2167-6-10**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2167-06-12 10:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory Failure, LLL pneumonia
   24 Hour Events:
   started on IV levothyroxine for possible myxedema per Endocrine team
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2167-6-12**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2167-6-12**] 04:00 AM
   Vancomycin - [**2167-6-12**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-6-12**] 04:00 AM
   Famotidine (Pepcid) - [**2167-6-12**] 08:00 AM
   Other medications:
   Depakote, Topamax, Synthroid IV, Colace
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-6-12**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 98 (94 - 101) bpm
   BP: 95/70(75) {86/52(61) - 153/91(94)} mmHg
   RR: 23 (11 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.1 kg (admission): 55 kg
   Height: 64 Inch
             Total In:
                                                                  2,339 mL
                                                                    959 mL
   PO:
             TF:
   IVF:
                                                                  2,149 mL
                                                                    659 mL
   Blood products:
   Total out:
                                                                  2,705 mL
                                                                    981 mL
   Urine:
                                                                  2,705 mL
                                                                    981 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -366 mL
                                                                    -22 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 541 (541 - 757) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///15/
   Ve: 15.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: L laterally)
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Noxious
   stimuli, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   273 K/uL
   91 mg/dL
   0.8 mg/dL
   15 mEq/L
   3.2 mEq/L
   10 mg/dL
   113 mEq/L
   141 mEq/L
   30.5 %
   23.5 K/uL
        [image002.jpg]
                             [**2167-6-9**]  11:06 PM
                             [**2167-6-10**]  01:09 AM
                             [**2167-6-10**]  02:42 AM
                             [**2167-6-10**]  06:05 AM
                             [**2167-6-10**]  01:08 PM
                             [**2167-6-11**]  02:26 AM
                             [**2167-6-11**]  05:48 AM
                             [**2167-6-11**]  03:05 PM
                             [**2167-6-12**]  03:13 AM
   WBC
   11.3
   18.4
   20.2
   23.5
   Hct
   31.7
   30.6
   30.6
   30.5
   Plt
   [**Telephone/Fax (3) 7204**]73
   Cr
   0.7
   0.7
   0.8
   TCO2
   26
   27
   27
   26
   21
   Glucose
   122
   67
   91
   Other labs: PT / PTT / INR:15.4/35.6/1.4, Differential-Neuts:91.9 %,
   Band:20.0 %, Lymph:3.6 %, Mono:0.8 %, Eos:3.5 %, Lactic Acid:1.1
   mmol/L, Albumin:3.2 g/dL, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: [**6-10**] TSH- 54
   Imaging: [**6-12**] CXR- unchanged, ETT 5.1 cm above carina, LUL and LLL
   atelectasis
   [**6-11**] CT head- neg for acute process
   Microbiology: [**6-10**] Sputum- MSSA
   [**6-10**] Sputum- GPCs
   Assessment and Plan
   Hypoxemic respiratory failure: likely CAP vs HAP vs aspiration with
   mucous plugging
   -stable on PSV
   -still w/ equivocal cough and mental status somewhat precluding
   extubation --> will continue to hold sedation and assess for possible
   extubation later today/ tomorrow. Will do bronch prior to extubation to
   help with secretion clearance
   -broad ABX coverage w/ vanco + pip-tazo and levofloxacin for now;
   narrow to just Zosyn w/ cx data
   -f/u blood and bronch sample cx
   Possible sepsis: hypotensive w/ elevated lactate overnight, fluid
   responsive
   -hemodynamically stable with reasonable UOP
   -will have to follow clinically for elevated wbc today, no new signs of
   infxn. will add on diff and evaluate as per results
   -cont fluid resuscitation targeted to UOP and BP
   -ABX as above
   Leukocytosis: check for C.diff, low threshold to rescan chest looking
   for empyema
   Pericardial effusion: noted on CT scan, no evidence of pulsus on exam
   -TTE without tamponade evidence
   Obtundation: polypharmacy noted on history obtained from boyfriend and
   history of overdose, also w/ profound hypothyroidism, poss myxedema?
   -IV levothyroxine today
   -resumed mood stabilizers yest; will hold Seroquel and other possible
   sedatives (Ambien and Klonopin)
   Remainder of plan per housestaff note.
   ICU Care
   Nutrition:
   Comments: tube feeds- held this am
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2167-6-9**] 11:59 PM
   20 Gauge - [**2167-6-10**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2167-06-13 09:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory failure, LLL pneumonia
   24 Hour Events:
   bronch'ed yest w/ thick L-sided plugs and mucus seen. Increased NGT
   residuals yest. Spiked to 101 overnight so pan-culture obtained.
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2167-6-12**] 04:00 AM
   Vancomycin - [**2167-6-12**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2167-6-13**] 04:09 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-6-13**] 04:09 AM
   Famotidine (Pepcid) - [**2167-6-13**] 08:00 AM
   Other medications:
   topamax, zosyn, levothyroxine, colace, senna, dulcolax
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-6-13**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.8
C (100.1
   HR: 93 (91 - 100) bpm
   BP: 101/59(68) {91/51(61) - 120/70(75)} mmHg
   RR: 31 (22 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.1 kg (admission): 55 kg
   Height: 64 Inch
             Total In:
                                                                  1,747 mL
                                                                    397 mL
   PO:
             TF:
   IVF:
                                                                  1,207 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                  2,336 mL
                                                                  1,455 mL
   Urine:
                                                                  2,216 mL
                                                                  1,155 mL
   NG:
                                                                    120 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                   -589 mL
                                                                 -1,058 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 574 (493 - 634) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///11/
   Ve: 13.8 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : L side, Diminished: L
   side)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: diffusely with guarding
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   246 K/uL
   80 mg/dL
   0.8 mg/dL
   11 mEq/L
   3.5 mEq/L
   10 mg/dL
   115 mEq/L
   139 mEq/L
   28.1 %
   14.8 K/uL
        [image002.jpg]
                             [**2167-6-9**]  11:06 PM
                             [**2167-6-10**]  01:09 AM
                             [**2167-6-10**]  02:42 AM
                             [**2167-6-10**]  06:05 AM
                             [**2167-6-10**]  01:08 PM
                             [**2167-6-11**]  02:26 AM
                             [**2167-6-11**]  05:48 AM
                             [**2167-6-11**]  03:05 PM
                             [**2167-6-12**]  03:13 AM
                             [**2167-6-13**]  03:31 AM
   WBC
   11.3
   18.4
   20.2
   23.5
   14.8
   Hct
   31.7
   30.6
   30.6
   30.5
   28.1
   Plt
   [**Telephone/Fax (3) 7204**]73
   246
   Cr
   0.7
   0.7
   0.8
   0.8
   TCO2
   26
   27
   27
   26
   21
   Glucose
   122
   67
   91
   80
   Other labs: PT / PTT / INR:14.1/35.0/1.2, Differential-Neuts:75.0 %,
   Band:12.0 %, Lymph:6.0 %, Mono:0.0 %, Eos:1.0 %, Lactic Acid:1.1
   mmol/L, Albumin:3.2 g/dL, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Imaging: [**6-13**] CXR- unchanged from yest
   [**6-12**] KUB- nonspec pattern, no clear obstruction or free air
   Microbiology: [**6-10**] Bronch aspirate- MSSA
   [**6-12**] Bronch aspirate- pending
   Assessment and Plan
   Hypoxemic respiratory failure: likely CAP vs HAP vs aspiration with
   mucous plugging
   -stable on PSV
   -still w/ equivocal cough and mental status somewhat precluding
   extubation
   -bronch on [**6-12**] with sig plugging, may need therapeutic bronchoscopy in
   a day or so
   -ABX coverage w/  pip-tazo given MSSA
   -f/u blood and bronch sample cx
   Fever and leukocytosis: w/ abd pain today
   -trend LFTs and amylase/lipase
   -CT c/a/p with po and IV contrast
   Pericardial effusion: noted on CT scan, no evidence of pulsus on exam
   -TTE without tamponade evidence
   Obtundation: polypharmacy noted on history obtained from boyfriend and
   history of overdose, also w/ profound hypothyroidism, poss myxedema?
   -IV levothyroxine today
   -resumed mood stabilizers; will hold Seroquel and other possible
   sedatives (Ambien and Klonopin)
   Remainder of plan per housestaff note.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2167-6-9**] 11:59 PM
   20 Gauge - [**2167-6-10**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2167-06-14 09:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2167-6-12**] 04:00 AM
   Vancomycin - [**2167-6-12**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2167-6-14**] 04:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-6-14**] 04:00 AM
   Famotidine (Pepcid) - [**2167-6-14**] 08:00 AM
   Propofol - [**2167-6-14**] 08:30 AM
   Other medications:
   Depakote sprinkles, topamax, synthroid, Colace, senna, Dulcolax,
   Lactulose
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-6-14**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.3
   HR: 87 (80 - 93) bpm
   BP: 131/73(88) {89/57(65) - 131/90(93)} mmHg
   RR: 25 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.1 kg (admission): 55 kg
   Height: 64 Inch
             Total In:
                                                                  3,451 mL
                                                                  1,425 mL
   PO:
             TF:
   IVF:
                                                                  2,221 mL
                                                                  1,405 mL
   Blood products:
   Total out:
                                                                  3,305 mL
                                                                  1,325 mL
   Urine:
                                                                  2,880 mL
                                                                  1,325 mL
   NG:
                                                                    425 mL
   Stool:
   Drains:
   Balance:
                                                                    146 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 548 (439 - 583) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///16/
   Ve: 12.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: L side)
   Abdominal: Soft, Bowel sounds present, Tender: diffusely
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   271 K/uL
   106 mg/dL
   0.7 mg/dL
   16 mEq/L
   2.5 mEq/L
   9 mg/dL
   113 mEq/L
   141 mEq/L
   28.4 %
   8.5 K/uL
        [image002.jpg]
                             [**2167-6-10**]  01:09 AM
                             [**2167-6-10**]  02:42 AM
                             [**2167-6-10**]  06:05 AM
                             [**2167-6-10**]  01:08 PM
                             [**2167-6-11**]  02:26 AM
                             [**2167-6-11**]  05:48 AM
                             [**2167-6-11**]  03:05 PM
                             [**2167-6-12**]  03:13 AM
                             [**2167-6-13**]  03:31 AM
                             [**2167-6-14**]  04:32 AM
   WBC
   11.3
   18.4
   20.2
   23.5
   14.8
   8.5
   Hct
   31.7
   30.6
   30.6
   30.5
   28.1
   28.4
   Plt
   [**Telephone/Fax (3) 7204**]73
   246
   271
   Cr
   0.7
   0.7
   0.8
   0.8
   0.7
   TCO2
   27
   27
   26
   21
   Glucose
   122
   67
   91
   80
   106
   Other labs: PT / PTT / INR:12.8/31.6/1.1, ALT / AST:17/25, Alk Phos / T
   Bili:104/0.4, Amylase / Lipase:53/21, Differential-Neuts:75.0 %,
   Band:12.0 %, Lymph:6.0 %, Mono:0.0 %, Eos:1.0 %, Lactic Acid:0.8
   mmol/L, Albumin:3.2 g/dL, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: TG-93
   Imaging: CT torso ([**6-13**])- dense LLL consolidation, LUL infiltrate,
   R-sided atelectasis, sm bilat pl effusions, mod pericardial effusion,
   constipation
   KUB ([**6-14**])- stool and constipation
   Microbiology: [**6-13**] Bronch- yeast
   [**6-12**] Bronch aspirate- cx pending
   Assessment and Plan
   43 yo female with h/o bipolar d/o, hypothyroidism who presented to OSH
   with increased lethargy and hypoxemic respiratory failure requiring
   intubation and found to have left lung collapse.
   Hypoxemic respiratory failure: likely CAP vs HAP vs aspiration with
   mucous plugging. ? viral
   -stable on PSV
   -still w/ equivocal cough and mental status somewhat precluding
   extubation
   -bronch on [**6-12**] with sig plugging, may need repeat therapeutic
   bronchoscopy in a day or so
   -ABx coverage w/  pip-tazo given MSSA
   -f/u blood and bronch sample cx
   Constipation/bowel obstruction: refractory to aggressive bowel regimen
   -attempt methylnaltrexone and disimpaction today
   -poss [**Doctor First Name 3**] eval if refractory
   -NG decompression from above, npo for now, change meds to IV
   Obtundation: polypharmacy noted on history obtained from boyfriend and
   history of overdose, also w/ profound hypothyroidism, poss myxedema?,
   exacerbated by constipation
   -IV levothyroxine and monitor TSH as per Endocrine svce
   -on mood stabilizers; will hold Seroquel and other possible sedatives
   (Ambien and Klonopin)
   -daily wakeup
   Remainder of plan per housestaff note.
   ICU Care
   Nutrition:
   Comments: npo given bowel obstruction
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   20 Gauge - [**2167-6-13**] 11:12 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient is critically ill.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1512**] [**Last Name (NamePattern1) 1513**], MD
   on:[**2167-6-14**] 15:21 ------

2167-06-15 10:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  Respiratory Failure
   24 Hour Events:
   PICC placed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2167-6-15**] 04:00 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-6-15**] 04:00 AM
   Fentanyl - [**2167-6-15**] 04:00 AM
   Famotidine (Pepcid) - [**2167-6-15**] 08:00 AM
   Propofol - [**2167-6-15**] 08:00 AM
   Other medications:
   topamax, zosyn, synthroid, colace, IV valproate, prn dulcolax,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-6-15**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.7
   HR: 93 (84 - 95) bpm
   BP: 134/80(91) {99/59(69) - 145/82(98)} mmHg
   RR: 28 (20 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.1 kg (admission): 55 kg
   Height: 64 Inch
             Total In:
                                                                  3,637 mL
                                                                  1,478 mL
   PO:
             TF:
   IVF:
                                                                  3,617 mL
                                                                  1,478 mL
   Blood products:
   Total out:
                                                                  3,060 mL
                                                                  1,025 mL
   Urine:
                                                                  2,660 mL
                                                                    875 mL
   NG:
                                                                    400 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                    577 mL
                                                                    453 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 548 (477 - 548) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///15/
   Ve: 13.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: L side, Rhonchorous:
   bilat)
   Abdominal: Soft, Bowel sounds present, Tender:
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   262 K/uL
   108 mg/dL
   0.5 mg/dL
   15 mEq/L
   2.9 mEq/L
   6 mg/dL
   117 mEq/L
   144 mEq/L
   27.6 %
   7.4 K/uL
        [image002.jpg]
                             [**2167-6-10**]  01:08 PM
                             [**2167-6-11**]  02:26 AM
                             [**2167-6-11**]  05:48 AM
                             [**2167-6-11**]  03:05 PM
                             [**2167-6-12**]  03:13 AM
                             [**2167-6-13**]  03:31 AM
                             [**2167-6-14**]  04:32 AM
                             [**2167-6-14**]  05:37 PM
                             [**2167-6-15**]  05:00 AM
                             [**2167-6-15**]  05:48 AM
   WBC
   7/
   18.4
   20.2
   23.5
   14.8
   8.5
   9.9
   7.4
   Hct
   30.6
   30.6
   30.5
   28.1
   28.4
   13.5
   27.6
   Plt
   222
   254
   273
   [**Telephone/Fax (3) 7235**]
   262
   Cr
   0.7
   0.8
   0.8
   0.7
   0.6
   0.5
   0.5
   TCO2
   26
   21
   Glucose
   67
   91
   80
   106
   103
   107
   108
   Other labs: PT / PTT / INR:12.2/30.1/1.0, ALT / AST:17/25, Alk Phos / T
   Bili:104/0.4, Amylase / Lipase:53/21, Differential-Neuts:75.0 %,
   Band:12.0 %, Lymph:6.0 %, Mono:0.0 %, Eos:1.0 %, Lactic Acid:0.8
   mmol/L, Albumin:3.2 g/dL, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Fluid analysis / Other labs: TSH yest- 25
   fT4- 1.9
   Imaging: [**6-15**] CXR- stable LLL consol, patchy R and l upper infiltrates
   [**6-15**] KUB- nonspec pattern, no obstruction or free air
   Microbiology: [**6-13**] bronch aspirate- oropharyngeal flora, yest
   [**6-9**] Bronch- MSSA
   Assessment and Plan
   43 yo female with h/o bipolar d/o, hypothyroidism who presented to OSH
   with increased lethargy and hypoxemic respiratory failure requiring
   intubation and found to have left lung collapse.
   Hypoxemic respiratory failure: likely CAP vs HAP vs aspiration with
   mucous plugging.
   -transitioned to PSV and stable; plan for extubation in next 24h. would
   like GI issues to trend to improvement first
   -plan on bronch today to clear
   -mental status much clearer
   -ABX coverage w/  pip-tazo given MSSA, full course
   -f/u blood and bronch sample cx
   Constipation/bowel obstruction: slowly improving
   -cont aggressive bowel regimen, enema and suppositories today
   -NG decompression from above, npo for now, change meds to IV
   Obtundation: polypharmacy noted on history obtained from boyfriend and
   history of overdose, also w/ profound hypothyroidism, poss myxedema?,
   exacerbated by constipation. improved today
   -IV levothyroxine and monitor TSH as per Endocrine svce
   -on mood stabilizers; will hold Seroquel and other possible sedatives
   (Ambien and Klonopin)
   -daily wakeup
   Met acidosis (gap and nongap)-
   -repeat VBG today
   -cont fluid repletion w/ D5 1/2 NS
   ICU Care
   Nutrition:
   Comments: npo given ileus
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2167-6-13**] 11:12 AM
   PICC Line - [**2167-6-14**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2167-06-16 09:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Respiratory Failure, LLL Pneumonia
   24 Hour Events:
   bronch'd yesterday with less purulence noted. Still no BM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2167-6-16**] 04:00 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2167-6-15**] 07:30 PM
   Heparin Sodium (Prophylaxis) - [**2167-6-16**] 04:00 AM
   Propofol - [**2167-6-16**] 05:30 AM
   Other medications:
   peridex, topamax, synthroid, docusate, depakote,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-6-16**] 09:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 89 (82 - 96) bpm
   BP: 117/77(85) {92/56(64) - 139/93(100)} mmHg
   RR: 20 (18 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.1 kg (admission): 55 kg
   Height: 64 Inch
             Total In:
                                                                  3,722 mL
                                                                  1,853 mL
   PO:
             TF:
   IVF:
                                                                  3,542 mL
                                                                  1,673 mL
   Blood products:
   Total out:
                                                                  2,780 mL
                                                                  1,370 mL
   Urine:
                                                                  2,630 mL
                                                                  1,370 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                    942 mL
                                                                    483 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 463 (454 - 499) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   236 K/uL
   103 mg/dL
   0.5 mg/dL
   19 mEq/L
   3.7 mEq/L
   3 mg/dL
   119 mEq/L
   144 mEq/L
   28.1 %
   6.4 K/uL
        [image002.jpg]
                             [**2167-6-11**]  05:48 AM
                             [**2167-6-11**]  03:05 PM
                             [**2167-6-12**]  03:13 AM
                             [**2167-6-13**]  03:31 AM
                             [**2167-6-14**]  04:32 AM
                             [**2167-6-14**]  05:37 PM
                             [**2167-6-15**]  05:00 AM
                             [**2167-6-15**]  05:48 AM
                             [**2167-6-15**]  02:59 PM
                             [**2167-6-16**]  03:33 AM
   WBC
   20.2
   23.5
   14.8
   8.5
   9.9
   7.4
   6.4
   Hct
   30.6
   30.5
   28.1
   28.4
   13.5
   27.6
   28.1
   Plt
   [**Telephone/Fax (3) 7242**]71
   388
   262
   236
   Cr
   0.8
   0.8
   0.7
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   21
   Glucose
   91
   80
   106
   103
   107
   108
   105
   103
   Other labs: PT / PTT / INR:12.3/29.8/1.0, ALT / AST:17/25, Alk Phos / T
   Bili:104/0.4, Amylase / Lipase:53/21, Differential-Neuts:75.0 %,
   Band:12.0 %, Lymph:6.0 %, Mono:0.0 %, Eos:1.0 %, Lactic Acid:0.8
   mmol/L, Albumin:2.6 g/dL, Ca++:7.5 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Imaging: [**6-16**] CXR- LLL consolidation, patchy LUL infiltrate
   [**6-16**] KUB- retained barium and stool
   Microbiology: [**6-15**] Bronch washing- pending
   [**6-13**] Sputum- yeast
   [**6-12**] Bronch washing- yeast
   prior +MSSA in sputum
   Assessment and Plan
   43 yo female with h/o bipolar d/o, hypothyroidism who presented to OSH
   with increased lethargy and hypoxemic respiratory failure requiring
   intubation and found to have left lung collapse.
   Hypoxemic respiratory failure: likely CAP vs HAP vs aspiration with
   mucous plugging. Intubated x 7d.
   -transitioned to PSV and stable; plan for extubation when GI issues
   resolved
   -mental status much clearer
   -ABX coverage w/  pip-tazo given MSSA, day [**6-16**]
   -f/u blood and bronch sample cx
   Constipation/Ileus: refractory to repeated attempts, enemas,
   suppositories, manual disempaction x2
   -cont aggressive bowel regimen, enema and suppositories today
   -decreased NG suction- check residuals and start po bowel regimen
   Obtundation: polypharmacy noted on history obtained from boyfriend and
   history of overdose, also w/ profound hypothyroidism, poss myxedema?,
   exacerbated by constipation. slowly improving
   -IV levothyroxine and monitor TSH/T4 as per Endocrine svce
   -on mood stabilizers; will hold Seroquel and other possible sedatives
   (Ambien and Klonopin)
   -daily wakeup
   Met acidosis (nongap)- cont fluid repletion w/ D5 1/2 NS
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2167-6-13**] 11:12 AM
   PICC Line - [**2167-6-14**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2167-06-17 10:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: LLL Pneumonia, altered mental status
   24 Hour Events:
   extubated yest uneventfully. failed swallow eval this am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2167-6-17**] 03:46 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-6-17**] 03:46 AM
   Famotidine (Pepcid) - [**2167-6-17**] 07:45 AM
   Other medications:
   topamax, zosyn, synthroid, colace, valproate, D5 1/2 NS + 40meq KCl
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-6-17**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 101 (93 - 113) bpm
   BP: 130/74(89) {109/65(76) - 140/103(112)} mmHg
   RR: 21 (17 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.1 kg (admission): 55 kg
   Height: 64 Inch
             Total In:
                                                                  4,675 mL
                                                                  1,464 mL
   PO:
             TF:
   IVF:
                                                                  4,225 mL
                                                                  1,464 mL
   Blood products:
   Total out:
                                                                  3,940 mL
                                                                  2,440 mL
   Urine:
                                                                  3,940 mL
                                                                  2,440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    735 mL
                                                                   -976 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 379 (379 - 379) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.42/35/178/20/0
   Ve: 12.7 L/min
   PaO2 / FiO2: 509
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender:
   diffusely
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Noxious
   stimuli, Movement: Non -purposeful, Sedated, Tone: Not assessed, not
   following commands, speaking nonsensically "This crap is frap"
   Labs / Radiology
   8.9 g/dL
   257 K/uL
   112 mg/dL
   0.4 mg/dL
   20 mEq/L
   4.3 mEq/L
   3 mg/dL
   112 mEq/L
   141 mEq/L
   27.6 %
   8.8 K/uL
        [image002.jpg]
                             [**2167-6-13**]  03:31 AM
                             [**2167-6-14**]  04:32 AM
                             [**2167-6-14**]  05:37 PM
                             [**2167-6-15**]  05:00 AM
                             [**2167-6-15**]  05:48 AM
                             [**2167-6-15**]  02:59 PM
                             [**2167-6-16**]  03:33 AM
                             [**2167-6-16**]  02:48 PM
                             [**2167-6-16**]  05:31 PM
                             [**2167-6-17**]  03:07 AM
   WBC
   14.8
   8.5
   9.9
   7.4
   6.4
   8.8
   Hct
   28.1
   28.4
   13.5
   27.6
   28.1
   27.6
   Plt
   [**Telephone/Fax (2) 7260**]
   Cr
   0.8
   0.7
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.4
   TCO2
   23
   Glucose
   80
   106
   103
   107
   108
   105
   103
   103
   112
   Other labs: PT / PTT / INR:12.3/29.8/1.0, ALT / AST:17/25, Alk Phos / T
   Bili:104/0.4, Amylase / Lipase:53/21, Differential-Neuts:75.0 %,
   Band:12.0 %, Lymph:6.0 %, Mono:0.0 %, Eos:1.0 %, Lactic Acid:0.8
   mmol/L, Albumin:2.6 g/dL, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Imaging: KUB [**6-17**]- resolving pattern
   Microbiology: prior sputum + for MSSA
   most recent Bronch- cx pending
   Assessment and Plan
   43 yo female with h/o bipolar d/o, hypothyroidism who presented to OSH
   with increased lethargy and hypoxemic respiratory failure requiring
   intubation and found to have left lung collapse.
   Hypoxemic respiratory failure: likely CAP vs HAP vs aspiration with
   mucous plugging. Intubated x 7d, extubated yesterday
   -ABX coverage w/  pip-tazo given MSSA, day [**7-17**]
   -f/u blood and bronch sample cx
   -head of bed up and incentive spirometry
   Constipation/Ileus: resolving
   -cont aggressive bowel regimen, enema and suppositories today
   -avoid narcotics
   Obtundation: prolonged. ? underlying neurologic or psychiatric insult.
   Of note pt was in bed for several days with decreased responsiveness.
   treating for myxedema
   -per boyfriend, baseline status is that pt is able to take care of
   herself
   -on IV Synthroid
   -resume Topamax and switch valproate back to sprinkles when NGT placed;
   resume Seroquel and Provigil today at reduced doses (was taking v high
   doses PTA). [**Month (only) 11**] need Ritalin to help with mentation
   -may obtain brain MRI if still not awakening
   -hold Ambien and Klonopin, all other sedating meds too
   Failed swallow eval:
   -NGT placement today
   -tube feeds order
   ICU Care
   Nutrition:
   Comments: npo, getting D5 1/2 NS + 40 meq Kcl
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-6-13**] 11:12 AM
   PICC Line - [**2167-6-14**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2167-06-18 10:21:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: LLL pneumonia, Psychosis
   24 Hour Events:
   NGT placed yest
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2167-6-18**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2167-6-18**] 04:00 AM
   Other medications:
   Depakote, Topamax, Seroquel, Provigil, zosyn, synthroid, Colace,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-6-18**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.1
   HR: 101 (96 - 112) bpm
   BP: 142/79(95) {128/65(81) - 146/105(110)} mmHg
   RR: 23 (15 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.1 kg (admission): 55 kg
   Height: 64 Inch
             Total In:
                                                                  2,477 mL
                                                                    633 mL
   PO:
             TF:
                                                                    190 mL
                                                                    311 mL
   IVF:
                                                                  1,997 mL
                                                                    202 mL
   Blood products:
   Total out:
                                                                  4,720 mL
                                                                  1,260 mL
   Urine:
                                                                  4,720 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,243 mL
                                                                   -628 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Bronchial: , Rhonchorous: L
   side)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli, Movement: Non
   -purposeful, Paralyzed, Tone: Not assessed, disoriented, speaking
   jibberish
   Labs / Radiology
   9.6 g/dL
   292 K/uL
   100 mg/dL
   0.5 mg/dL
   18 mEq/L
   3.5 mEq/L
   10 mg/dL
   108 mEq/L
   137 mEq/L
   28.8 %
   11.3 K/uL
        [image002.jpg]
                             [**2167-6-14**]  05:37 PM
                             [**2167-6-15**]  05:00 AM
                             [**2167-6-15**]  05:48 AM
                             [**2167-6-15**]  02:59 PM
                             [**2167-6-16**]  03:33 AM
                             [**2167-6-16**]  02:48 PM
                             [**2167-6-16**]  05:31 PM
                             [**2167-6-17**]  03:07 AM
                             [**2167-6-17**]  04:16 PM
                             [**2167-6-18**]  04:44 AM
   WBC
   9.9
   7.4
   6.4
   8.8
   11.3
   Hct
   13.5
   27.6
   28.1
   27.6
   28.8
   Plt
   388
   262
   236
   257
   292
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.4
   0.5
   0.5
   TCO2
   23
   Glucose
   103
   107
   108
   105
   103
   103
   112
   99
   100
   Other labs: PT / PTT / INR:12.3/29.8/1.0, ALT / AST:17/25, Alk Phos / T
   Bili:104/0.4, Amylase / Lipase:53/21, Differential-Neuts:75.0 %,
   Band:12.0 %, Lymph:6.0 %, Mono:0.0 %, Eos:1.0 %, Lactic Acid:0.8
   mmol/L, Albumin:2.6 g/dL, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Microbiology: prior MSSA positive sputum
   [**6-15**] Bronch- yeast
   [**6-13**], [**6-11**] blood- neg to date
   Assessment and Plan
   43 yo female with h/o bipolar d/o, hypothyroidism who presented to OSH
   with increased lethargy and hypoxemic respiratory failure requiring
   intubation and found to have left lung collapse.
   Hypoxemic respiratory failure: likely CAP vs HAP vs aspiration with
   mucous plugging. extubated [**6-15**]
   -ABX coverage w/  pip-tazo given MSSA, day [**8-17**]
   -f/u blood and bronch sample cx
   -head of bed up and incentive spirometry
   Psychosis:
   -resumed home regimen but w/ Seroquel and Provigil at lower doses
   -Psych consult
   Failed swallow eval:
   -NGT placement and tube feeds
   Rest of plan per housestaff note
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2167-6-14**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes